US06765012B2
5-Chloro-3-{[4-(3-piperidin-1-yl-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-piperidin-1-yl-propoxy)-phenylamine (550 mg, 1.3 equiv.) and 5-chloro-3-hydroxymethylene-1,3-dihydro-indol-2-one (380 mg, 2.00 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (464 mg, 58%).

reactant | 4-(3-piperidin-1-yl-propoxy)-phenylamine | 550 mg, 1.3 equiv. | N1(CCCCC1)CCCOC1=CC=C(C=C1)N | C14H22N2O
reactant | 5-chloro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.00 mmol, 380 mg, 1 equiv. | ClC=1C=C2C(C(NC2=CC1)=O)=CO | C9H6ClNO2
product | 5-Chloro-3-{[4-(3-piperidin-1-yl-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 464 mg, 58% | ClC=1C=C2C(C(NC2=CC1)=O)=CNC1=CC=C(C=C1)OCCCN1CCCCC1 | C23H26ClN3O2
